US09034866B2
Into a 2000-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of argon was placed ethyl 4-(4-bromo-3-fluorophenoxy)butanoate (80.6 g, 264.14 mmol, 1.00 equiv), LiOH (12.7 g, 530.27 mmol, 2.00 equiv), tetrahydrofuran (250 mL), and water (240 mL). The resulting solution was stirred at 50° C. overnight, cooled to 0° C. with a water/ice bath, adjusted to pH=3-4 with hydrochloric acid (2 N) and extracted with 3×100 mL of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was triturated in 30 mL of EA to afford 50 g (68%) of 4-(4-bromo-3-fluorophenoxy)butanoic acid as a white solid.

reactant | ethyl 4-(4-bromo-3-fluorophenoxy)butanoate | 264.14 mmol, 80.6 g, 1.00 equiv | BrC1=C(C=C(OCCCC(=O)OCC)C=C1)F | C12H14BrFO3
reactant | LiOH | 530.27 mmol, 12.7 g, 2.00 equiv | [Li+].[OH-]
reactant | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | 240 mL | O | H2O
product | 4-(4-bromo-3-fluorophenoxy)butanoic acid | 50 g, 68% | BrC1=C(C=C(OCCCC(=O)O)C=C1)F | C10H10BrFO3
